US07759373B2
To the crude crystal of 2-chloro-5-(diformylaminoacetyl)-thiophene were added potassium hydroxide (0.60 g), ethanol (70 ml) and tetrahydrofuran (40 ml), and the mixture was stirred at room temperature for one hour. After removing the solvent under reduced pressure, tetrahydrofuran (150 ml) and anhydrous magnesium sulfate were added to the residue, and insoluble material was removed by filtration and washed with tetra-hydrofuran. The filtrate and the washed solution were combined and the solvent was removed under reduced pressure. The residue was crystallized from diisopropyl ether-ethyl acetate to obtain 2-chloro-5-(formylaminoacetyl)thiophene (14.81 g) as pale brownish crystal.

reactant | 2-chloro-5-(diformylaminoacetyl)-thiophene | ClC=1SC(=CC1)C(CN(C=O)C=O)=O | C8H6ClNO3S
reactant | potassium hydroxide | 0.60 g | [OH-].[K+]
reactant | ethanol | 70 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-chloro-5-(formylaminoacetyl)thiophene | 14.81 g | ClC=1SC(=CC1)C(CNC=O)=O | C7H6ClNO2S
